* d:\fossee\comp\comp.cir

v1  in1 gnd pulse(0 1 0 0.001n 0.001n 5n 10n)
r1  in1 gnd 100k
v2  in2 gnd pulse(0 1 0 0.001n 0.001n 10n 20n)
r2  gnd in2 100k
* u7  in1 in2 net-_u2-pad1_ net-_u3-pad1_ adc_bridge_2
* u5  net-_u2-pad2_ net-_u3-pad1_ net-_u5-pad3_ and_gate
* u2  net-_u2-pad1_ net-_u2-pad2_ inverter
* u8  net-_u2-pad1_ net-_u3-pad1_ net-_u8-pad3_ xor_gate
* u3  net-_u3-pad1_ net-_u3-pad2_ inverter
* u6  net-_u2-pad1_ net-_u3-pad2_ net-_u6-pad3_ and_gate
* u9  net-_u5-pad3_ net-_u8-pad3_ net-_u6-pad3_ out1 out2 out3 dac_bridge_3
r3  out1 gnd 100k
r4  out2 gnd 100k
r5  out3 gnd 100k
* u4  in1 plot_v1
* u1  in2 plot_v1
* u10  out1 plot_v1
* u11  out2 plot_v1
* u12  out3 plot_v1
a1 [in1 in2 ] [net-_u2-pad1_ net-_u3-pad1_ ] u7
a2 [net-_u2-pad2_ ] [net-_u3-pad1_ ] [net-_u5-pad3_ ] u5
a3 [net-_u2-pad1_ ] [net-_u2-pad2_ ] u2
a4 [net-_u2-pad1_ ] [net-_u3-pad1_ ] [net-_u8-pad3_ ] u8
a5 [net-_u3-pad1_ ] [net-_u3-pad2_ ] u3
a6 [net-_u2-pad1_ ] [net-_u3-pad2_ ] [net-_u6-pad3_ ] u6
a7 [net-_u5-pad3_ net-_u8-pad3_ net-_u6-pad3_ ] [out1 out2 out3 ] u9
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             and_gate, NgSpice Name: and_gate
.model u5 and_gate(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             inverter, NgSpice Name: inverter
.model u2 inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             xor_gate, NgSpice Name: xor_gate
.model u8 xor_gate(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             inverter, NgSpice Name: inverter
.model u3 inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             and_gate, NgSpice Name: and_gate
.model u6 and_gate(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 10e-03 100e-06 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in1)
plot v(in2)
plot v(out1)
plot v(out2)
plot v(out3)
.endc
.end
